US07622583B2
A mixture of (tert-butyl-dimethyl-silanyloxy)-acetaldehyde (177.7 mg, 1.02 mmol), acetic acid (0.051 mL, 0.85 mmol) and N-[2-(2-amino-pyridine-4-carbonyl)-5-chloro-pyridin-3-yl]-4-methyl-3-trifluoromethyl-benzenesulfonamide (400 mg, 0.85 mmol) in DCM (3 mL) was stirred at RT for 1 hour. To the mixture was added sodium triacetoxyborohydride (360.8 mg, 1.7 mmol), stirred overnight. The mixture was extracted with ethyl acetate, washed with water, dried and concentrated. The residue was purified by flash column to afford N-[2-({2-[2-(tert-butyl-dimethyl-silanyloxy)-ethylamino]-pyridin-4-yl}-hydroxy-methyl)-5-chloro-pyridin-3-yl]-4-methyl-3-trifluoromethyl-benzenesulfonamide.

reactant | (tert-butyl-dimethyl-silanyloxy)-acetaldehyde | 1.02 mmol, 177.7 mg | C(C)(C)(C)[Si](OCC=O)(C)C | C8H18O2Si
reactant | acetic acid | 0.85 mmol, 0.051 mL | C(C)(=O)O | C2H4O2
reactant | N-[2-(2-amino-pyridine-4-carbonyl)-5-chloro-pyridin-3-yl]-4-methyl-3-trifluoromethyl-benzenesulfonamide | 0.85 mmol, 400 mg | NC1=NC=CC(=C1)C(=O)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)C)C(F)(F)F)Cl | C19H14ClF3N4O3S
reactant | sodium triacetoxyborohydride | 1.7 mmol, 360.8 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-[2-({2-[2-(tert-butyl-dimethyl-silanyloxy)-ethylamino]-pyridin-4-yl}-hydroxy-methyl)-5-chloro-pyridin-3-yl]-4-methyl-3-trifluoromethyl-benzenesulfonamide | C(C)(C)(C)[Si](OCCNC1=NC=CC(=C1)C(C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)C)C(F)(F)F)Cl)O)(C)C | C27H34ClF3N4O4SSi
